US06927230B2
To a suspension of 2-(6-methoxypyridin-3-yl)hydrazinecarboxamide (17 g, 93.3 mmol) in 100 mL of toluene, pyridine (15.1 mL, 187 mmol) and then a solution of 4-methoxybenzoyl chloride (15.9 g, 93.3 mmol) in 50 mL of toluene were added. The mixture was refluxed with stirring for 1 hour. After cooling at 80° C., 75 mL of water was added to the mixture. After vigorous shaking, an insoluble material was isolated by filtration, washed with water and toluene, dried in vacuo to give 2-(4-methoxybenzoyl)-2-(6-methoxypyridin-3-yl)hydrazinecarboxamide (8.5 g, 28.8% yield).

reactant | 2-(6-methoxypyridin-3-yl)hydrazinecarboxamide | 93.3 mmol, 17 g | COC1=CC=C(C=N1)NNC(=O)N | C7H10N4O2
reactant | pyridine | 187 mmol, 15.1 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxybenzoyl chloride | 93.3 mmol, 15.9 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | water | 75 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxybenzoyl)-2-(6-methoxypyridin-3-yl)hydrazinecarboxamide | 8.5 g, 28.8% yield | COC1=CC=C(C(=O)N(NC(=O)N)C=2C=NC(=CC2)OC)C=C1 | C15H16N4O4
